US09447081B2
The Preparation of Intermediate 4,5-dichloro-6-(difluoromethyl)pyrimidine
100 ml of POCl3 was added dropwise to a solution of 65.0 g (0.36 mol) of 4-hydroxyl-5-chloro-6-(difluoromethyl)pyrimidin in 150 mL of toluene, the mixture was refluxed for 3-5 h after addition. After the reaction was over by Thin-Layer Chromatography monitoring, the reaction mixture was concentrated under reduced pressure to remove toluene and extra POCl3, and then poured into ice water. The water phase was extracted with ethyl acetate (3×50 ml), the organic phases were emerged, washed with saturated sodium bicarbonate, dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure. The residue was purified through silica column to give 64.5 g as yellow liquid, cooled to be solid in refrigerator with yield of 90%.

reactant | POCl3 | 100 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 4-hydroxyl-5-chloro-6-(difluoromethyl)pyrimidin | 0.36 mol, 65.0 g | OC1=NC=NC(=C1Cl)C(F)F | C5H3ClF2N2O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 4,5-dichloro-6-(difluoromethyl)pyrimidine | ClC1=NC=NC(=C1Cl)C(F)F | C5H2Cl2F2N2
